US07501419B2
7-Bromo-4-methoxy-6-azaindole
To a flask containing 7-hydroxy-4-methoxy-6-azaindole (0.200 g, 1.22 mmol) was added anisole (3 mL) and then POBr3 (1.57 g, 6.09 mmol). The system was purged with Ar and then it was heated at 160° C. (oil bath temperature) for 1 h. The reaction mixture was then allowed to cool to room temperature, quenched with 2M HBr (5 mL) and extracted with methyl t-butyl ether. The aqueous phase was separated and the pH was adjusted to 6-7, after which it was extracted with EtOAc. The resulting organic phase was dried (MgSO4) and evaporated to give a solid residue which was chromatographed (SiO2/5% MeOH-DCM) to afford the title compound (0.076 g, 27%) as a white solid:

reactant | 7-hydroxy-4-methoxy-6-azaindole | 1.22 mmol, 0.200 g | OC=1N=CC(=C2C=CNC12)OC | C8H8N2O2
reactant | anisole | 3 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | POBr3 | 6.09 mmol, 1.57 g | P(=O)(Br)(Br)Br | Br3OP
product | 7-Bromo-4-methoxy-6-azaindole | 0.076 g, 27% | BrC=1N=CC(=C2C=CNC12)OC | C8H7BrN2O
